data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1C.[H+]", "products": "COc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1C"}, {"reactants": "COc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1C", "products": "COc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1C.O"}, {"reactants": "COc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1C", "products": "COc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1C"}, {"reactants": "COc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1C", "products": "COc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1C"}, {"reactants": "COc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1C.O", "products": "COc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1C"}, {"reactants": "COc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1C", "products": "COc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1C"}, {"reactants": "COc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1C", "products": "COc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1C"}, {"reactants": "COc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1C", "products": "COc1cccc(C2CCC3C(=O)OC2(C)C3(C)C)c1C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(F)c(F)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)c(F)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)c(F)c1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(F)c(F)c2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(F)c(F)c2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(F)c(F)c2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(F)c(F)c2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(F)c(F)c2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(F)c(F)c2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccc(F)c(F)c2)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Clc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(Cl)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(Cl)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(Cl)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(Cl)c1", "products": "O=C1CCN2C[C@H](OCc3cccc(Cl)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(Cl)ccc1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(Cl)ccc1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(Cl)ccc1Cl)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(Cl)ccc2Cl)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(Cl)ccc2Cl)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(Cl)ccc2Cl)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(Cl)ccc2Cl)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(Cl)ccc2Cl)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(Cl)ccc2Cl)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cc(Cl)ccc2Cl)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CCc1cccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "CCc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "CCc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "CCc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "CCc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "CCc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "CCc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "CCc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1"}, {"reactants": "CCc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1.O", "products": "CCc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1"}, {"reactants": "CCc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1", "products": "CCc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "CCc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "CCc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "CCc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "CCc1cccc(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
